// Generated for: spectre
// Generated on: Apr 18 19:56:13 2017
// Design library name: CADAssignment
// Design cell name: ckt1
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: CADAssignment
// Cell name: ckt1
// View name: schematic
M11 1 2 0 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M8 3 3 0 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15  ps=300n pd=300n ld=105n ls=105n m=1
M0 4 4 3 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M5 5 3 0 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M4 2 4 5 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M9 1 10 8 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M7 6 11 7 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M6 2 9 6 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M3 4 9 7 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M2 7 12 7 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M1 7 13 8 8 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1

