// Generated for: spectre
// Generated on: Apr 18 20:13:22 2017
// Design library name: CADAssignment
// Design cell name: ckt2
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: CADAssignment
// Cell name: ckt2
// View name: schematic
M1 5 1 2 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M8 2 3 0 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M5 3 1 6 6 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M0 6 3 0 0 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M9 5 7 8 9 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M7 3 7 4 9 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M6 4 10 12 9 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M4 8 11 12 9 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M3 12 13 9 9 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1


