// Generated for: spectre
// Generated on: Apr 18 20:27:29 2017
// Design library name: CADAssignment
// Design cell name: ckt3
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: CADAssignment
// Cell name: ckt3
// View name: schematic
I0 1 3 isource type=pulse val0=0 val1=0
M1 5 4 7 7 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M0 6 4 7 7 PMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M3 5 2 1 3 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1
M2 6 8 1 3 NMOS_VTL w=90n l=50n as=9.45e-15 ad=9.45e-15 ps=300n pd=300n ld=105n ls=105n m=1

